US08106045B2
To a suspension of (2S)-2-(4-bromophenyl)-4-((1R)-1-phenylethyl)morpholine (7.62 g, 22.0 mmol), palladium acetate (198 mg, 0.88 mmol), 2-(di-t-butylphosphino) biphenyl (525 mg, 1.76 mmol), and sodium tert-butoxide (2.96 g, 30.8 mmol) in toluene (40 ml) was added cyclohexylamine (3.78 ml, 33.0 mmol) at room temperature. After heating at 90° C. for 2.5 hours, the resulting suspension was passed through a Celite column. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel chromatography eluting 5-25% of ethyl acetate in hexane to afford (S)-2-(4-(cyclohexyl-amino)phenyl)-4-((R)-1-phenylethyl)morpholine (6.95 g, 87%) as white crystals.

reactant | (2S)-2-(4-bromophenyl)-4-((1R)-1-phenylethyl)morpholine | 22.0 mmol, 7.62 g | BrC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C18H20BrNO
reactant | sodium tert-butoxide | 30.8 mmol, 2.96 g | CC(C)([O-])C.[Na+]
reactant | cyclohexylamine | 33.0 mmol, 3.78 ml | C1(CCCCC1)N | C6H13N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.88 mmol, 198 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-t-butylphosphino) biphenyl | 1.76 mmol, 525 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
product | (S)-2-(4-(cyclohexyl-amino)phenyl)-4-((R)-1-phenylethyl)morpholine | 6.95 g, 87% | C1(CCCCC1)NC1=CC=C(C=C1)[C@H]1CN(CCO1)[C@H](C)C1=CC=CC=C1 | C24H32N2O
